US07465815B2
1-Bromo-4-(3-bromo-2-methyl-1-propenyl)benzene
To an acetonitrile solution (180 mL) of triphenylphosphine (24.3 g, 92.7 mmol) was added dropwise bromine (4.78 mL, 185 mmol) at 0° C. and the mixture was stirred at the same temperature for 30 minutes. To the solution was added the acetonitrile solution (60 mL) of 3-(4-bromophenyl)-2-methyl-2-propen-1-ol obtained in Reference Example 106 (20.1 g, 88.3 mmol) and the mixture was stirred at 0° C. for 1 hour. The reaction solution was concentrated under reduced pressure, diethyl ether (200 mL) was added to the residue, and the insolubles were filtered off. The solution was washed with a saturated brine, dried over sodium sulfate, and then concentrated under reduced pressure to obtain 25.0 g (yield 98%) of the title compound as an oily matter.

reactant | triphenylphosphine | 92.7 mmol, 24.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 185 mmol, 4.78 mL | BrBr | Br2
reactant | 3-(4-bromophenyl)-2-methyl-2-propen-1-ol | BrC1=CC=C(C=C1)C=C(CO)C | C10H11BrO
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
product | 1-Bromo-4-(3-bromo-2-methyl-1-propenyl)benzene | 25.0 g, yield 98% | BrC1=CC=C(C=C1)C=C(CBr)C | C10H10Br2
